US08022062B2
Suspend commercially available 2,3-dihydrobenzo[b]furan-5-yl-methylamine hydrochloride (1.0 g, 5.4 mmol) in DCM (100 mL). Add 1N aqueous NaOH (15 mL) and stir until all solids dissolve. Add two spatulas of NaCl. Stir the mixture and extract twice with DCM. Combine the organic layers, dry over Na2SO4, and concentrate in vacuo to obtain 2,3-dihydrobenzo[b]furan-5-yl-methylamine (650 mg, 81%). MS (ES+) m/z: 133 M+H−NH3)+.

reactant | 2,3-dihydrobenzo[b]furan-5-yl-methylamine hydrochloride | 5.4 mmol, 1.0 g | Cl.O1C2=C(CC1)C=C(C=C2)NC
reactant | NaOH | 1N, 15 mL | [OH-].[Na+]
reactant | NaCl | [Na+].[Cl-]
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 2,3-dihydrobenzo[b]furan-5-yl-methylamine | 650 mg, 81% | O1C2=C(CC1)C=C(C=C2)NC | C9H11NO
